US07291619B2
To a solution of 2-bromo-4-methylaniline (558 mg, 3.0 mmol) in 30 mL of acetbnitrile was added tetrafluoroborate (600 μL of a 54% solution in Et2O, 4.35 mmol). The solution was cooled to about 0° C. and t-butyl nitrite (55 uL, 4.62 mmol) was added. After stirring for about 45 minutes, the solution was transferred to a solution of CuCN (800 mg, 8.93 mmol) and NaCN (1.47 g, 30 mmol) in 30 mL, of water cooled to 0° C. via cannula. The cold bath was removed. After stirring overnight, the aqueous solution was extracted with Et2O (2×). The combined organic solutions were washed with 1 M HCl, saturated sodium bicarbonate, water and brine, and then dried (Na2SO4), filtered and concentrated. The material was adsorbed onto 3 g of silica gel and purified by silica gel flash chromatography (4×15 cm column, 5-20 Et2O/pentane, over 48 min at 35 mL/min) to afford about 320 mg (1.63 mmol, 54%) of 2-bromo-4-methyl-benzonitrile as a colorless oil. GC/MS (EI): 195.

reactant | 2-bromo-4-methylaniline | 3.0 mmol, 558 mg | BrC1=C(N)C=CC(=C1)C | C7H8BrN
reactant | tetrafluoroborate | F[B-](F)(F)F
reactant | t-butyl nitrite | 4.62 mmol, 55 uL | N(=O)OC(C)(C)C | C4H9NO2
reactant | CuCN | 8.93 mmol, 800 mg | C(#N)[Cu]
reactant | NaCN | 30 mmol, 1.47 g | [C-]#N.[Na+]
solvent | Et2O | CCOCC | C4H10O
solvent | water | O | H2O
product | 2-bromo-4-methyl-benzonitrile | 1.63 mmol, about 320 mg, 54% | BrC1=C(C#N)C=CC(=C1)C | C8H6BrN
